US07544672B2
Step 6. 4-Chloro-5-iodo-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine
A mixture of N-[4-chloro-5-iodo-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl]-2,2-dimethyl-propionamide (1.0 g, 1.89 mmol), ZnCl2 (1.29 g, 9.47 mol, 5.0 eq.), and EtOH/H2O solution (25 mL, volumetric ratio 100:5) was stirred at 80° C. overnight. The reaction mixture poured into water, and the solid was collected by filtration, washed with water (10 mL×3), and recrystallized from MeOH to give the title product (0.67 g, 85% yield; HPLC purity 98%). tR: 5.39 min. 1H-NMR (DMSO-d6) δ 8.07 (s, 1H), 7.28 (s, 1H), 6.75 (br. s, 2H), 5.29 (s, 2H), 3.73 (s, 3H), 2.26 (s, 3H), 2.17 (s, 3H).

reactant | N-[4-chloro-5-iodo-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl]-2,2-dimethyl-propionamide | 1.89 mmol, 1.0 g | ClC=1C2=C(N=C(N1)NC(C(C)(C)C)=O)N(C=C2I)CC2=NC=C(C(=C2C)OC)C | C20H23ClIN5O2
reactant | EtOH H2O | 25 mL | CCO.O
catalyst | ZnCl2 | 9.47 mol, 1.29 g, 5.0 eq. | [Cl-].[Cl-].[Zn+2]
solvent | water | O | H2O
product | 4-Chloro-5-iodo-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine | 0.67 g, 85% yield | ClC=1C2=C(N=C(N1)N)N(C=C2I)CC2=NC=C(C(=C2C)OC)C | C15H15ClIN5O
